US07425634B2
(71a) 2-((4R)-2,2-dimethyl-1,3-dioxolan-4-yl)ethanol
A mixture of (R)-(+)-1,2,4-butanetriol (30 g, 283 mmol), acetone (200 ml, 2724 mmol) and p-toluenesulfonic acid monohydrate (1.4 g, 7.36 mmol) was stirred at room temperature for 16.5 hours. To the reaction mixture, triethylamine was added and the mixture was concentrated. The crude product was purified by silica gel column chromatography (silica gel, elution solvent: heptane/ethyl acetate=1/0→1/1→1/3 gradient). Desired fractions were concentrated to obtain the title compound (29.9 g, 72.3% yield) as a colorless oil.

reactant | (R)-(+)-1,2,4-butanetriol | 283 mmol, 30 g | C([C@@H](CCO)O)O | C4H10O3
reactant | acetone | 2724 mmol, 200 ml | CC(=O)C | C3H6O
catalyst | p-toluenesulfonic acid monohydrate | 7.36 mmol, 1.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-((4R)-2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | 29.9 g, 72.3% yield | CC1(OC[C@H](O1)CCO)C | C7H14O3
